US08957074B2
A sample of 7-Cyclopentyl-N,N-dimethyl-2-(5-((1S,6R)-4-oxo-3,9-diazabicyclo[4.2.1]nonan-3-yl)pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide (60 mg, 0.123 mmol) was combined with 2,2,2-trifluoroethyl trifluoromethanesulfonate (0.035 ml, 0.246 mmol) in dimethylformamide (1 mL) and heated to (80° C.) overnight. The reaction was then poured into water and extracted with ethyl acetate. The aqueous was washed with ethyl acetate. The organics were combined, dried over sodium sulfate, filtered and concentrated which gave a crude material that was purified by silica gel column chromatography which gave 7-cyclopentyl-N,N-dimethyl-2-(5-((1R,6S)-4-oxo-9-(2,2,2-trifluoroethyl)-3,9-diazabicyclo[4.2.1]nonan-3-yl)pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide (45 mg) in 64% yield. 1H NMR (400 MHz, CDCl3) δ ppm 8.74 (s, 1H), 8.51 (d, J=9.09 Hz, 1H), 8.22 (s, 1H), 8.15 (d, J=2.53 Hz, 1H), 7.52 (dd, J=8.84, 2.78 Hz, 1H), 6.46 (s, 1H), 4.80 (t, J=8.59 Hz, 1H), 4.23 (d, J=13.64 Hz, 1H), 3.47 (m, 3H), 3.16 (s, 6H), 3.06 (m, 3H), 2.83 (dd, J=15.66, 7.07 Hz, 1H), 2.57 (dd, J=12.13, 8.59 Hz, 2H), 2.04 (m, 6H), 1.70 (m, 4H).

reactant | 7-Cyclopentyl-N,N-dimethyl-2-(5-((1S,6R)-4-oxo-3,9-diazabicyclo[4.2.1]nonan-3-yl)pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | 0.123 mmol, 60 mg | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C=C2)N2C[C@@H]1CC[C@H](CC2=O)N1)C(=O)N(C)C | C26H32N8O2
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 0.246 mmol, 0.035 ml | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | water | O | H2O
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 7-cyclopentyl-N,N-dimethyl-2-(5-((1R,6S)-4-oxo-9-(2,2,2-trifluoroethyl)-3,9-diazabicyclo[4.2.1]nonan-3-yl)pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | 45 mg, 64% yield | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C=C2)N2C[C@H]1CC[C@@H](CC2=O)N1CC(F)(F)F)C(=O)N(C)C | C28H33F3N8O2
